US06465493B1
Example 17: 4-[4-(2,3-Dihydro-benzofuran-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzamide
Prepared according to the method of Example 14 from 4-[4-(2,3-dihydro-benzofuran-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzonitrile which was prepared from 4-[4-(2,3-dihydro-benzofuran-6-yl)-1-hydroxy-5-pyridin-2-yl-1H-imidazol-2-yl]-benzonitrile according to the method of Example 2. 1H NMR (250 MHz, CDCl3) δ: 3.27 (2H, brt, J=8.5 Hz), 4.63 (2H, brt, J=8.5 Hz), 5.50-5.90 (1H, brs), 6.05-6.35 (1H, brs), 7.08-7.20 (3H, m), 7.18-7.30 (3H, m) 7.56 (2H, brs), 8.86 (2H, d, J=8.3 Hz), 8.04 (2H, d, J=8.3 Hz), 8.54 (1H, brd, J=4.5 Hz); m/z (ESMS): 383.5 (MH+).

reactant | 4-[4-(2,3-dihydro-benzofuran-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzonitrile | O1CCC2=C1C=C(C=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C#N)C=C2 | C23H16N4O
reactant | 4-[4-(2,3-dihydro-benzofuran-6-yl)-1-hydroxy-5-pyridin-2-yl-1H-imidazol-2-yl]-benzonitrile | O1CCC2=C1C=C(C=C2)C=2N=C(N(C2C2=NC=CC=C2)O)C2=CC=C(C#N)C=C2 | C23H16N4O2
product | 4-[4-(2,3-Dihydro-benzofuran-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzamide | O1CCC2=C1C=C(C=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C(=O)N)C=C2 | C23H18N4O2
